US07498337B2
6-methoxypyridin-3-ylsulfonyl chloride
5-Amino-2-methoxypyridine (1.24 g) was dissolved in acetic acid (8.3 mL), and the mixture was stirred under ice-cooling. Concentrated hydrochloric acid (8.3 mL) was added, and an aqueous solution (5 mL) of sodium nitrite (689 mg) was added dropwise over 15 min while keeping the inside temperature at not higher than 10° C. The reaction mixture was stirred for 10 min, and gradually added at 5° C. to a mixture of cuprous chloride (280 mg) and acetic acid (17 mL) saturated in advance with sulfur dioxide gas. The mixture was allowed to gradually warm to room temperature until the generation of gas stopped. The reaction mixture was concentrated to about 5 mL under reduced pressure, and the precipitate was collected by filtration to give the title compound (yield 1.0 g, 51%) as crude crystals. This compound was used for the next reaction without purification.

reactant | 5-Amino-2-methoxypyridine | 1.24 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | hydrochloric acid | 8.3 mL | Cl | ClH
reactant | sodium nitrite | 5 mL, 689 mg | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | 8.3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 17 mL | C(C)(=O)O | C2H4O2
product | 6-methoxypyridin-3-ylsulfonyl chloride | yield 1.0 g, 51% | COC1=CC=C(C=N1)S(=O)(=O)Cl | C6H6ClNO3S
